US05763196
To a solution of N-(2-hydroxyethyl)maleimide (0.2 g, 1.41 mmol) in dry dichloromethane (10 ml) and triethylamine (0.22 ml, 1.57 mmol) at 0° C. was added chlorotrimethylsilane (TMS-C1, 0.2 ml, 1.57 mmol). After stirring for 1 hour at room temperature, TLC analysis (ethyl acetate/petroleum ether 1:1) indicated one spot (Rf=0.67). Solvent was removed in vacuo and the residue was dissolved in dichloromethane and filtered through a small silica gel column eluting with dichloromethane. The fractions containing product were pooled and evaporated in vacuo to afford N-(2-trimethylsiloxyethyl)-maleimide (formula H) as colorless flakes (0.3 g; 100% yield).

reactant | N-(2-hydroxyethyl)maleimide | 1.41 mmol, 0.2 g | OCCN1C(C=CC1=O)=O | C6H7NO3
reactant | triethylamine | 1.57 mmol, 0.22 ml | C(C)N(CC)CC | C6H15N
reactant | chlorotrimethylsilane | 1.57 mmol, 0.2 ml | Cl[Si](C)(C)C | C3H9ClSi
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2-trimethylsiloxyethyl)-maleimide | 100% yield | C[Si](OCCN1C(C=CC1=O)=O)(C)C | C9H15NO3Si
